US04912105
Triethylamine (16.2 cc) is added with stirring, to a solution of D series 10-[1-hydroxy-2-propyl)phenothiazinecarbonitrile (20 g) in methylene chloride (200 cc) cooled to a temperature of about 5° C., then a solution of methanesulphonyl chloride (8.9 cc) in methylene chloride (89 cc) is poured in dropwise over 25 minutes, and stirring is continued for 50 minutes at a temperature of about 10° C. The reaction mixture is washed successively with distilled water (2×00 cc) and a saturated aqueous solution of sodium chloride (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. D series 2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate (25.8 g) is thus obtained in the form of an orange gum which is used without other purification for the syntheses following.

reactant | Triethylamine | 16.2 cc | C(C)N(CC)CC | C6H15N
reactant | 10-[1-hydroxy-2-propyl)phenothiazinecarbonitrile | 20 g | OCC(C)N1C2=CC=CC=C2SC=2C=CC=C(C12)C#N | C16H14N2OS
reactant | methanesulphonyl chloride | 8.9 cc | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 200 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 89 cc | C(Cl)Cl | CH2Cl2
product | 2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate | 25.8 g | CS(=O)(=O)OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H16N2O3S2
